US04937246
To a mixture of thiophene-2-carboxylic acid (0.4 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.1 g), triethylamine (1.2 g) and dimethylformamide (20 ml) is added dropwise, while stirring, diethyl cyanophosphonate (1.2 ml), followed by stirring for one hour. To the reaction mixture are added water (100 ml) and ethyl acetate (100 ml), followed by extraction. The extract is washed with water, dried and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:acetone=2:1) to give an oily product, which is led to its hydrochloride in a mixture of ethyl acetate - ethyl ether to yield 1-(2-thenoyl)-4(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.65 g) as colorless needles, m.p. 205°-209° C. (decomp.).

reactant | thiophene-2-carboxylic acid | 0.4 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | diethyl cyanophosphonate | 1.2 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate ethyl ether | C(C)(=O)OCC.C(C)OCC
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 1-(2-thenoyl)-4(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.65 g | Cl.C1(=CC=CS1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H24N2O4S.ClH/c1-23-15-11-14(12-16(24-2)18(15)25-3)13-20-6-8-21(9-7-20)19(22)17-5-4-10-26-17;/h4-5,10-12H,6-9,13H2,1-3H3;1H
